US07192954B2
Step A. 5,7-Dimethyl-2-benzoxazolinone
A mixture of 2-amino-4,6-dimethylphenol (412 mg, 3.00 mmol) and 1,1′-carbonyldiimidazole (730 mg, 4.50 mmol) in THF (15 mL) was heated at reflux for 3 h. The mixture was allowed to cool, and the solvent removed under reduced pressure. The residue was taken up in EtOAc and washed with 1.0 N aqueous HCl (2×), then brine, then the EtOAc was dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound. MS: m/z=164 (M+1).

reactant | 2-amino-4,6-dimethylphenol | 3.00 mmol, 412 mg | NC1=C(C(=CC(=C1)C)C)O | C8H11NO
reactant | 1,1′-carbonyldiimidazole | 4.50 mmol, 730 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5,7-Dimethyl-2-benzoxazolinone | CC=1C=C(C2=C(NC(O2)=O)C1)C | C9H9NO2
